US07485634B2
Preparation of Ethyl 3-(4-Fluorobenzoyl)-2-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate
The title compound was prepared in a manner similar to that described in Example 2A by using ethyl 2-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate and 4-fluorobenzoyl chloride; 1H-NMR (CDCl3): δ 10.44 (1H, br s), 8.01 (1H, s), 7.63 (2H, m), 7.52 (1H, d), 7.39 (1H, d), 7.24 (4H, m), 5.61 (1H, br s), 4.22 (2H, m), 3.43 (1H, dd), 3.10 (1H, dd), 1.19 (3H, t), 1.06 (3H, d); MS (ES): 393 (MH+).

reactant | ethyl 2-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | CC1CC2=C(NC=3C=CC=CC23)C(=CN1)C(=O)OCC | C16H18N2O2
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | Ethyl 3-(4-Fluorobenzoyl)-2-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | FC1=CC=C(C(=O)N2C=C(C=3NC=4C=CC=CC4C3CC2C)C(=O)OCC)C=C1 | C23H21FN2O3
